Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ with h/o GERD, recent diagnosis of 
influenza 1 week ago, who now p/w SOB, worsening cough, and low 
grade fevers. 

On ___ he saw Dr ___ ___ ___, with 2 days of cough 
productive of yellow sputum, fevers to 101, headache. 1 episode 
diarrhea w/ abdominal cramps, 1 episode vomiting. No rash. No 
recent travel
history, no sick contacts, did not have an influenza vaccine 
this
year. He was given a 5 day course of oseltamivir (last dose due 
this evening), though declined testing for influenza.  

He had been improving, but over the last 3 days developed 
worsening productive cough, shortness of breath, and low grade 
fevers. Saw PCP today and he was noted to be hypoxic to 91%. 
Referred to ___ ED for further work up. No chest pain, N/V/D.

___ the ED, initial VS were 98.5 87 125/83 28 96%ra 
Exam notable for scattered wheezes and crackels on L 
Labs showed mild leukopenia (WBC 3.3, 6% bands) , lactate 2 
Imaging showed CXR: Multifocal regions of consolidation 
worrisome for pneumonia. Followup will be necessary   
Received IV, vancomycin 1g IV, and levofloxacin 750mg IV

On arrival to the floor, patient reports feeling "crummy". 

 
Past Medical History:
- BACK PAIN                                                      
 
- ? SEIZURE DISORDER                                             
 
He had LOC with stereotyped motor activity ___ ___, diagnosed 
with presumptive seizure disorder, EEGs x 2 normal, also normal 
MRI head (except for benign-appearing 3 mm focus ___ left IAC), 
echocardiogram, and Holter. He took Trileptal for four months 
but self-discontinued it ___ about ___, without any 
seizure-like activity since then.                               
- HEADACHE History of stabbing headaches, prior gabapentin and 
Fioricet use.                              
- IAC MASS Seen on MRI ___ ___ and stable ___ ___. Followed by 
Dr. ___ ___ NSG                                                
          
- H/O GENITAL WARTS                                              
 
Significantly improved S/P cryotherapy ___ the past, still with  
residual lesions right groin crease.      
 
Social History:
___
Family History:
- Mother with HTN. No known history of early heart disease, 
colon cancer, prostate cancer, or breast cancer  
 
Physical Exam:
Admission exam:
VS -  98.7 87 128/82 18 97%ra 
GENERAL: NAD, well appearing AA man   
HEENT: AT/NC, EOMI, PERRL, injected sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: rales ___ RML and LLL, breathing comfortably  
ABDOMEN: nondistended, +BS, nontender ___ all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

Discharge PE:
VS: T: 98.3 HR: 77 BP: 137/80 RR: 18 97% RA  
GENERAL: NAD, resting comfortably ___ bed  
HEENT: MMM, OP clear 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: rales ___ RML and LLL, breathing comfortably  
ABDOMEN: nondistended, +BS, nontender ___ all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

 
Pertinent Results:
Admission labs
___ 02:44PM BLOOD WBC-3.3* RBC-5.19 Hgb-16.8 Hct-48.4 
MCV-93 MCH-32.4* MCHC-34.7 RDW-12.9 RDWSD-44.1 Plt ___
___ 02:44PM BLOOD Neuts-60 Bands-6* ___ Monos-14* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-2.18 AbsLymp-0.66* 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.00*
___ 02:44PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 02:44PM BLOOD ___ PTT-27.3 ___
___ 04:25PM BLOOD Glucose-127* UreaN-16 Creat-1.1 Na-131* 
K-3.9 Cl-92* HCO3-24 AnGap-19

PA/L CXR ___:
IMPRESSION:  
Multifocal regions of consolidation worrisome for pneumonia.  
Followup will be necessary to document resolution. 

**FINAL REPORT ___
   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
     
   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3,
Influenza A, B,and RSV by immunofluorescence. 

OTHER BODY FLUID 
OTHER BODY FLUID VIRAL, MOLECULAR FluAPCR FluBPCR 
___ 01:07    POSITIVE *1 NEGATIVE 
Source: Nasopharyngeal swab 

**FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora.

 
Brief Hospital Course:
Mr ___ is a ___ with h/o GERD, recent diagnosis of 
influenza 1 week ago, who now p/w SOB, worsening cough, and low 
grade fevers.  

#) Acute pneumonia: recent ILI started around ___, started on 
oseltamivir on ___ (last dose due tonight). Had been feeling 
better, now worse, though not severely ill. CXR with multifocal 
findings. Suspect this is still CAP and potentially viral ___
etiology, though given time course and multifocal opacities, was 
treated as post-influenza PNA with IV vancomycin and PO 
levaquin.  His symptoms improved, sputum cultures grew just 
commensal respiratory flora.  Vancomycin was discontinued.  He 
was ambulating well on room air with oxygen saturation >95% with 
ambulation.  
- continue levofloxacin 750mg PO Q24H for total 7 day course
- Will need repeat chest X-ray ___ ___ weeks to demonstrate 
clearance of infiltrates.

#) Leukopenia: likely ___ acute viral infection.  Improved prior 
to discharge

#Transaminits: Most likely also due to viral infection, no 
abdominal pain or evidence of obstruction.  Hepatitis serologies 
sent and are pending.
-F/u hepatitis serologies
- Recommend repeat LFTs at next visit with PCP.

#) Mild hyponatremia: Na+ 131 on admission, likely hypovolemic 
___ setting of N/V, diarrhea, feeling sick and possible SIADH 
from pulmonary process. Resolved.

FEN: regular diet  
PPX: 
-DVT: heparin BID
-pain: acetaminophen
ACCESS: PIV  
CODE: full  
COMMUNICATION:  
DISPO: home
CONSULTS: none  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. OSELTAMivir 75 mg PO ONCE 
3. sildenafil 100 mg oral PRN sexual activity 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Omeprazole 20 mg PO DAILY 
3. sildenafil 100 mg oral PRN sexual activity 
4. Levofloxacin 750 mg PO DAILY Duration: 5 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multifocal community acquired pneumonia
Influenza A infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for worsening cough and shortness of breath.  
Your chest X-ray showed multiple areas of pneumonia ___ both 
lungs.  You were put on antibiotics and your symptoms slowly 
improved.  Your cultures showed you have the Flu but the rest of 
the bacterial cultures were negative. Please follow-up with your 
PCP ___ 1 week.  We recommend getting a repeat chest X-ray ___ 
___ weeks to make sure that the pneumonia is completely gone.
 
Followup Instructions:
___